data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3280,3716,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][c:6]1[nH+:7][c-:8](-[c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)[c:15](=[O:16])[o:17]1>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:8]2([c:9]3[cH:10][cH:11][cH:12][cH:13][cH:14]3)[NH:7][C:6]1([CH3:5])[O:17][C:15]2=[O:16],water,298.15,26.453659536505214,-8.106629989380037
4399,5029,[C:10](#[N+:11][CH-:12][c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1)[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][CH:12]([c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[N:11]=[C:10]1[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,15.65099153931145,-38.34939989699021
2223,2465,[CH3:16][NH:17][C:18](=[O:19])[CH:20]=[N+:21]([CH3:22])[C-:23]([C:24](=[O:25])[NH:26][CH3:27])[C:28](=[O:29])[O:30][CH3:31].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7](=[O:8])[O:9][CH3:10])[CH:11]2[CH2:12][CH2:13][CH:14]1[CH2:15]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([C:7](=[O:8])[O:9][CH3:10])([CH:11]3[CH2:12][CH2:13][CH:14]1[CH2:15]3)[C:23]([C:24](=[O:25])[NH:26][CH3:27])([C:28](=[O:29])[O:30][CH3:31])[N:21]([CH3:22])[CH:20]2[C:18]([NH:17][CH3:16])=[O:19],water,298.15,17.268897684402464,-20.96490193612976
1920,2128,[CH3:15][NH:16][C:17](=[O:18])[N-:19][O+:20]=[C:21]([C:22](=[O:23])[O:24][CH3:25])[C:26](=[O:27])[O:28][CH3:29].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]([F:7])([F:8])[F:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]([F:7])([F:8])[F:9])[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[N:19]([C:17]([NH:16][CH3:15])=[O:18])[O:20][C:21]3([C:22](=[O:23])[O:24][CH3:25])[C:26](=[O:27])[O:28][CH3:29],water,298.15,13.710067996990803,-66.0263887633967
988,1073,[CH3:1][C:2](=[O:3])[C:4]#[C:5][C:6]([CH3:7])=[O:8].[CH3:9][O:10][C:11](=[O:12])[C-:13]([C:14]#[N:15])[NH+:16]=[C:17]([C:18]#[N:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]([CH3:7])=[O:8])[C:13]([C:11]([O:10][CH3:9])=[O:12])([C:14]#[N:15])[NH:16][C:17]1([C:18]#[N:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,21.026327160785844,-27.621099583004742
3822,4374,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[N-:15][O+:16]=[CH:17][C:18]([CH3:19])=[O:20]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[CH:17]([C:18]([CH3:19])=[O:20])[O:16][N:15]2[C:13]([O:12][CH3:11])=[O:14],water,298.15,6.2302711316203405,-43.24309104178014
1102,1200,[Br:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2.[CH3:9][C:10](=[O:11])[CH:12]=[NH+:13][C-:14]([C:15]#[N:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1>>[Br:1][C:2]12[CH:3]([CH:4]3[CH:5]=[CH:6][CH:7]1[O:8]3)[C:14]([C:15]#[N:16])([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[NH:13][CH:12]2[C:10]([CH3:9])=[O:11],water,298.15,13.664466674480272,-29.21195232094948
2042,2267,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([CH3:15])[N+:16]([CH3:17])=[C:18]([C:19]([CH3:20])=[O:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[CH3:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[CH3:1][C:2]12[C:3]([Br:4])([CH:5]3[CH:6]=[CH:7][CH:8]1[O:9]3)[C:18]([C:19]([CH3:20])=[O:21])([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[N:16]([CH3:17])[C:14]2([C:12]([NH:11][CH3:10])=[O:13])[CH3:15],water,298.15,38.99112152551029,-19.034168605438627
4232,4842,[CH3:10][NH:11][C:12](=[O:13])[C:14](=[NH+:15][CH-:16][C:17]#[N:18])[C:19](=[O:20])[O:21][CH3:22].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:19](=[O:20])[O:21][CH3:22])[NH:15][CH:16]1[C:17]#[N:18],water,298.15,22.04448273721952,-12.62020729181525
5211,5912,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([C:15](=[O:16])[O:17][CH3:18])[N+:19]([CH3:20])=[C:21]([C:22](=[O:23])[O:24][CH3:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:15](=[O:16])[O:17][CH3:18])[N:19]([CH3:20])[C:21]1([C:22](=[O:23])[O:24][CH3:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1,water,298.15,41.80315234462453,-10.446182428488584
3901,4462,[CH3:10][O:11][C:12](=[O:13])[C:14](=[NH+:15][O-:16])[C:17](=[O:18])[O:19][CH3:20].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[O:16][NH:15][C:14]1([C:12]([O:11][CH3:10])=[O:13])[C:17](=[O:18])[O:19][CH3:20],water,298.15,32.04625277825521,4.966436573004962
